US07538121B2
N-(1-Methylisoquinolin-5-yl)-1,1′-biphenyl-4-carboxamide
To a solution of 1-methyl-5-aminoisoquinoline (94 (75 mg, 0.47 mmol) in DCM (4 ml) was added 4-biphenylcarboxylic acid (141 mg, 0.71 mmol), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (135 mg, 0.71 mmol) and 4-dimethylaminopyridine (10 mg, 0.08 mmol) and the reaction stirred at 38° C. for 3 days. The mixture was diluted with DCM, washed with sat. aqueous sodium bicarbonate solution and water, dried over MgSO4 and concentrated in vacuo to give the crude product which was triturated with methanol. The resulting precipitate was collected by filtration, washed with ether and dried in vacuo giving the title compound as an off-white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 8.48 (d, 1H), 8.33 (d, 1H), 8.21 (br, 1H), 8.06 (m, 3H), 7.78 (d, 2H), 7.68 (m, 3H), 7.58 (d, 1H), 7.51 (t, 2H), 7.41 (t, 1H), 3.02 (s, 3H).

reactant | 1-methyl-5-aminoisoquinoline | CC1=NC=CC2=C(C=CC=C12)N | C10H10N2
reactant | 4-biphenylcarboxylic acid | 0.71 mmol, 141 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 0.71 mmol, 135 mg | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.08 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(1-Methylisoquinolin-5-yl)-1,1′-biphenyl-4-carboxamide | CC1=NC=CC2=C(C=CC=C12)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C23H18N2O
